US08217064B2
To a stirred solution compound ethyl 2-(3-bromo-4-hydroxy-5-nitrophenyl)-4-methylpentanoate (6 g), in dry methanol (100 mL) was added Pd(OH)2 under an atmosphere of nitrogen. The reaction mixture was stirred for 5 h under an atmosphere of hydrogen. The reaction mixture was filtered through Celite™, washed with methanol and concentrated to dryness under reduced pressure. The crude material was purified by column chromatography to yield ethyl 2-(3-amino-5-bromo-4-hydroxyphenyl)-4-methylpentanoate (4 g, 72%). 1H NMR (CDCl3, 200 MHz): 6.80 (s, 1H); 6.62 (s, 1H); 5.35 (bs, 1H); 4.13 (q, 2H); 3.41 (t, 1H); 1.93-1.56 (m, 2H); 1.51 (m, 1H); 1.21 (t, 3H), 0.97 (d, 6H).

reactant | ethyl 2-(3-bromo-4-hydroxy-5-nitrophenyl)-4-methylpentanoate | 6 g | BrC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(=O)OCC)CC(C)C | C14H18BrNO5
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | ethyl 2-(3-amino-5-bromo-4-hydroxyphenyl)-4-methylpentanoate | 4 g, 72% | NC=1C=C(C=C(C1O)Br)C(C(=O)OCC)CC(C)C | C14H20BrNO3
